US08026234B2
Methyl 3-((2-chloro-5-nitropyrimidin-4-yl)(cyclopentyl)amino)-2,2-difluoropropanoate:
Compound methyl 3-(cyclopentylamino)-2,2-difluoropropanoate (400 mg, 2 mmol) was solubilized in acetone (20 mL, dry). The solution was cooled in an ice water bath under a nitrogen atmosphere and K2CO3 (552 mg, 4 mmol) added. To this, a solution of 2,4-dichloro-5-nitropyrimidine (407 mg, 2.1 mmol) in acetone (5 mL, dry) was added dropwise. The reaction mixture was warmed up to room temperature and stirred for 4 hr. After that, it was diluted with EtOAc and washed by brine and water. The organic extracts were dried over MgSO4, filtered and concentrated to yield the desired product which was used directly for next step without further purification. [M+H] calc'd for C13H15ClF2N4O4, 365. found 365.

reactant | methyl 3-(cyclopentylamino)-2,2-difluoropropanoate | 2 mmol, 400 mg | C1(CCCC1)NCC(C(=O)OC)(F)F | C9H15F2NO2
reactant | K2CO3 | 4 mmol, 552 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-dichloro-5-nitropyrimidine | 2.1 mmol, 407 mg | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 3-((2-chloro-5-nitropyrimidin-4-yl)(cyclopentyl)amino)-2,2-difluoropropanoate | ClC1=NC=C(C(=N1)N(CC(C(=O)OC)(F)F)C1CCCC1)[N+](=O)[O-] | C13H15ClF2N4O4
